US07402684B2
3-(4-Benzyloxy-phenoxy)-pyridine:
To a solution of p-benzyloxyphenol (550 mg, 2.754 mmol), Cs2CO3 (1.795 g, 5.509 mmol), 3-iodo pyridine (850 mg, 4.14 mmol) in anhydrous dioxane (15 ml) under N2 was added diglyme (38.42 mg, 0.275 mmol). After stirring for 10 min, CuI (19.38 mg, 0.102 mmol) was added and the reaction mixture was kept in a shaker at 85° C. overnight. The mixture was poured into EtOAc and water, the organic layer was dried over Na2SO4, and concentrated. Silica gel flash chromatography using EtOAc/Hexane gave the title compound (200 mg, 17%).

reactant | p-benzyloxyphenol | 2.754 mmol, 550 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | Cs2CO3 | 5.509 mmol, 1.795 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-iodo pyridine | 4.14 mmol, 850 mg | IC=1C=NC=CC1 | C5H4IN
reactant | diglyme | 0.275 mmol, 38.42 mg | COCCOCCOC | C6H14O3
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
catalyst | CuI | 0.102 mmol, 19.38 mg | [Cu]I
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(4-Benzyloxy-phenoxy)-pyridine | 200 mg, 17% | C(C1=CC=CC=C1)OC1=CC=C(OC=2C=NC=CC2)C=C1 | C18H15NO2
